US07638541B2
Step 4: 4-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-Chloromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (700 m g, 2.20 mmol), 4-methanesulfonyl-phenol (417 mg, 1.1 eq.) and K2CO3 (609 mg, 2 eq.) in acetone (30 mL) was heated to reflux overnight. After cooling, the solid was filtered off through a pad of celite. The filtrate was concentrated in vacuo. The crude product was purified on silica gel (EtOAc:hexanes=1:1) to afford the desired product as an off-white solid. 1H NMR (CDCl3): δ 7.87 (2H, d, J=8.8 Hz), 7.12 (2H, d, J=8.8 Hz), 6.59 (1H, s), 5.05 (2H, s), 3.56 (4H, m), 3.48 (4H, m), 3.04 (3H, s), 1.49 (9H, s).

reactant | 4-(4-Chloromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.20 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)CCl | C13H20ClN3O2S
reactant | 4-methanesulfonyl-phenol | 417 mg, 1.1 eq. | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | K2CO3 | 609 mg, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)COC1=CC=C(C=C1)S(=O)(=O)C | C20H27N3O5S2
